US06982348B2
2) methyl 3,4-dihydro-2H-1,5-benzodioxepine-6-carboxylate
Methyl 2,3-dihydroxybenzoate (1.870 g, 11.12 mmol), 1,3-dibromopropane (2.25 g, 11.1 mmol) and potassium carbonate (6.15 g, 44.5 mmol) were stirred in N,N-dimethylformamide (20 ml) overnight at 60° C. The reaction solution was poured into water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | Methyl 2,3-dihydroxybenzoate | 11.12 mmol, 1.870 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | 1,3-dibromopropane | 11.1 mmol, 2.25 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 44.5 mmol, 6.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 3,4-dihydro-2H-1,5-benzodioxepine-6-carboxylate | O1CCCOC2=C1C=CC=C2C(=O)OC | C11H12O4
